US05420275
N-Formylphenylglycine ethyl ester
Phenylglycine ethyl ester hydrochloride (21.5 g; 0.1 mol) was dissolved in 200 ml of formic acid, whereto sodium formate (8.16 g; 1.2 eq.) was added, followed by adding dropwise acetic anhydride (20 ml; 2.1 eq.). After two hours' stirring, 10 ml of acetic anhydride was added dropwise, and the mixture was stirred at 50°-60° C. for 1.5 hours. After the solvent was distilled off, the residue was neutralized with an aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off to afford an oily product.

reactant | Phenylglycine ethyl ester hydrochloride | 0.1 mol, 21.5 g | Cl.C(C)OC(CNC1=CC=CC=C1)=O
reactant | sodium formate | 8.16 g, 1.2 eq. | C(=O)[O-].[Na+]
reactant | acetic anhydride | 20 ml, 2.1 eq. | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 200 ml | C(=O)O | CH2O2
product | N-Formylphenylglycine ethyl ester | C(C)OC(CN(C=O)C1=CC=CC=C1)=O | C11H13NO3
